US05439928
c) 1-benzyl-5-(4,4-diphenylbutyl)-1H-imidazole
1-benzyl-5-(4,4-diphenyl-1-butenyl)-1H-imidazole hydrochloride (2,0 g) is dissolved in ethanol and a catalytic amount of Pd/C (10%) is added. The reaction mixture is agitated vigorously at room temperature in a hydrogen atmosphere until the uptake of hydrogen ceases. The mixture is filtered and the filtrate is evaporated to dryness. The residue which is the product is purified by flash chromatography eluting with methylene chloride-methanol mixture. Yield 1,3 g. M.p. of the hydrochloride salt is 200°-202° C.

reactant | 1-benzyl-5-(4,4-diphenyl-1-butenyl)-1H-imidazole hydrochloride | 2,0 g | Cl.C(C1=CC=CC=C1)N1C=NC=C1C=CCC(C1=CC=CC=C1)C1=CC=CC=C1
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 1-benzyl-5-(4,4-diphenylbutyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1CCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C26H26N2
